US04876175
Step 1: Preparation of Methyl 6-(N,N-diethylamino)-2-benzo[b]furanylcarboxylate
To a 250 mL three-necked, round-bottom flask equipped with a mechanical stirrer, reflux condenser, and Y-tube with a rubber septum and nitrogen inlet was added 1.8 gm (45 mmol) of 60% sodium hydride in mineral oil. After washing twice with 20 mL of hexanes, 150 mL of THF was added, followed by the rapid dropwise addition via transfer syringe of 3.86 gm (20 mmol) of 4-(N,N-diethylamino)-2-hydroxybenzaldehyde, dissolved in 50 mL of tetrahydrofuran (THF). The flask was placed in an 80° C. oil bath and stirred vigorously for 5 minutes, at which time 2.08 mL (20 mmol) of methyl bromoacetate was added in one portion. Sodium bromide precipitated from solution and vigorous stirring had to be maintained throughout. The suspension was refluxed for 80 minutes, allowed to cool to room temperature, and diluted with 75 mL of diethyl ether. The reaction was quenched by the slow dropwise addition of 50 mL of dilute aqueous ammonium chloride. The phases were separated and the aqueous phase extracted with 100 mL of diethyl ether (Et2O). The combined organic phases were washed with 20 mL 1 N NaOH and 20 mL water. After drying (MgSO4), the solvent was removed by rotary evaporation and the residual oil purified by flash chromatography (CH2Cl2 ; SiO2, 11/2×15") to yield 2.23 gm (45.3%) of the product as a colorless oil. Field desorption mass spectrum: m/e 247 (M+). Anal. calcd. for C14H17NO3 : C, 68.0; H, 6.9; N, 5.7. Found: C, 67.9; H, 6.8; N, 5.8. 1H 270 NMR (CDCl3): δ 6.7 (m, 2H, ArHa,b), 7.4 (m, 2H, ArHc,d).

reactant | sodium hydride | 45 mmol, 1.8 gm | [H-].[Na+]
reactant | 4-(N,N-diethylamino)-2-hydroxybenzaldehyde | 20 mmol, 3.86 gm | C(C)N(CC)C1=CC(=C(C=O)C=C1)O | C11H15NO2
reactant | methyl bromoacetate | 20 mmol, 2.08 mL | BrCC(=O)OC | C3H5BrO2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Methyl 6-(N,N-diethylamino)-2-benzo[b]furanylcarboxylate | 2.23 gm, 45.3% | C(C)N(CC)C=1C=CC2=C(OC(=C2)C(=O)OC)C1 | C14H17NO3
